US07309714B2
Step A: (βS)-N-(tert-Butoxycarbonyl)-4-fluoro-β-methyl-L-phenylalanyl-L-prolinamide
To a stirred solution of (2S,3S)-2-azido-3-(4-fluorophenyl)butanoic acid Example 1, Step D, 91.8 mg, 0.309 mmol) in anhydrous N,N-dimethylformamide (DMF, 1.5 mL) was added [O-(7-azabenzotriazol-1-yl)-1,1,3,3-tetramethyluronium hexafluorophosphate) (HATU, 141 mg, 0.371 mmol), 1-hydroxy-7-azabenzotriazole (HOAT, 50.5 mg, 0.371 mmol), L-prolinamide (38.8 mg, 0.340 mmol) and N,N′-diisopropylethylamine (0.135 mL, 0.773 mmol). After stirring at room temperature for 16 h, the reaction was diluted with ethyl acetate. The organic phase was washed sequentially with water, saturated aqueous sodium bicarbonate solution and brine, dried (magnesium sulfate), and concentrated under reduced pressure. The residue was purified by preparative thin layer chromatography (silica, ethyl acetate eluant) to afford the title compound.

reactant | (2S,3S)-2-azido-3-(4-fluorophenyl)butanoic acid | N(=[N+]=[N-])[C@H](C(=O)O)[C@@H](C)C1=CC=C(C=C1)F | C10H10FN3O2
reactant | O-(7-azabenzotriazol-1-yl)-1,1,3,3-tetramethyluronium hexafluorophosphate | F[P-](F)(F)(F)(F)F.N1(N=NC2=C1N=CC=C2)OC(=[N+](C)C)N(C)C
reactant | HATU | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | 1-hydroxy-7-azabenzotriazole | 0.371 mmol, 50.5 mg | ON1N=NC2=C1N=CC=C2 | C5H4N4O
reactant | L-prolinamide | 0.340 mmol, 38.8 mg | N1[C@H](C(=O)N)CCC1 | C5H10N2O
reactant | N,N′-diisopropylethylamine | 0.773 mmol, 0.135 mL | CCN(C(C)C)C(C)C | C8H19N
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | N,N-dimethylformamide | 1.5 mL | CN(C=O)C | C3H7NO
product | (βS)-N-(tert-Butoxycarbonyl)-4-fluoro-β-methyl-L-phenylalanyl-L-prolinamide | C(C)(C)(C)OC(=O)N[C@@H]([C@H](C1=CC=C(C=C1)F)C)C(=O)N1[C@H](C(=O)N)CCC1 | C20H28FN3O4
